US08809372B2
To a solution of 5-bromo-2-fluoropyridine (0.5 g, 2.857 mmol) in DMF (6 mL), 2-(tributylstannyl)thiazole (1.3 mL, 4.285 mmol) and Pd(PPh3)2Cl2 (0.2 mg, 0.2857 mmol) were added under argon. The mixture was degassed with argon for 10 min and heated to 100° C. for 30 min. The reaction mixture was filtered through Celite® reagent and the filtrate was diluted with EtOAc (2×100 mL) and water (100 mL). The organic layer was separated, dried over Na2SO4, filtered and concentrated under reduced pressure to obtain crude product. The crude product was purified by Biotage IsoleraOne® column (5% ethyl acetate in hexane) to obtain 2-(6-fluoropyridin-3-yl) thiazole as off-white solid (0.4 g, 80% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.80 (s, 1H), 8.52-8.47 (m, 1H), 7.98 (d, 1H), 7.87 (d, 1H), 7.33 (dd, 1H); LC-MS m/z calculated for [M+H]+ 181.02, found 180.8.

reactant | 5-bromo-2-fluoropyridine | 2.857 mmol, 0.5 g | BrC=1C=CC(=NC1)F | C5H3BrFN
reactant | 2-(tributylstannyl)thiazole | 4.285 mmol, 1.3 mL | C(CCC)[Sn](C=1SC=CN1)(CCCC)CCCC
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 0.2857 mmol, 0.2 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(6-fluoropyridin-3-yl) thiazole | 0.4 g, 80% yield | FC1=CC=C(C=N1)C=1SC=CN1 | C8H5FN2S
